US08349824B2
The product was prepared in the same manner as described in example 65c) using N2-(2-fluoro-ethyl)-N2-methyl-[1,2,4]triazolo[1,5-a]pyridine-2,7-diamine hydrochloride (1.3 g, 5.3 mmol) and 2-methyl-2H-pyrazole-3,4-dicarboxylic acid-4-ethyl ester (1.08 g, 5.45 mmol) as starting materials. The solvent was evaporated and the resulting yellowish oil was triturated with sat. sodium hydrogencarbonate solution. The precipitated solid was filtered off, washed with water 4 times and dried in vacuo affording 5-{2-[(2-fluoro-ethyl)-methyl-amino]-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl}-1-methyl-1H-pyrazole-4-carboxylic acid ethyl ester (1.57 g, 76.2%) as a light yellow solid. MS: m/z=390.5 (M+H+).

reactant | N2-(2-fluoro-ethyl)-N2-methyl-[1,2,4]triazolo[1,5-a]pyridine-2,7-diamine hydrochloride | 5.3 mmol, 1.3 g | Cl.FCCN(C1=NN2C(C=C(C=C2)N)=N1)C
reactant | 2-methyl-2H-pyrazole-3,4-dicarboxylic acid-4-ethyl ester | 5.45 mmol, 1.08 g | C(C)OC(=O)C1=C(N(N=C1)C)C(=O)O | C8H10N2O4
product | 5-{2-[(2-fluoro-ethyl)-methyl-amino]-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl}-1-methyl-1H-pyrazole-4-carboxylic acid ethyl ester | 1.57 g, 76.2% | C(C)OC(=O)C=1C=NN(C1C(NC1=CC=2N(C=C1)N=C(N2)N(C)CCF)=O)C | C17H20FN7O3
